US08293917B2
A portion of the 5-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (2.7 g, 18 mmol) is dissolved in EtOH (15 mL) and treated with aqueous sodium hydroxide solution (2.0 N solution, 20 mL, 40 mmol). The reaction is heated at 80° C. for 4 hours. The resultant mixture is then cooled and concentrated in vacuo to remove most of the EtOH. The crude is then acidified with 6N HCl until a precipitate is formed and filtered to afford 5-methyl-1H-pyrazole-4-carboxylic acid as a colorless solid (1.7 g, 74%).

reactant | 5-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 18 mmol, 2.7 g | C(C)OC(=O)C=1C=NNC1C | C7H10N2O2
reactant | sodium hydroxide | 40 mmol, 2.0 N, 20 mL | [OH-].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
product | 5-methyl-1H-pyrazole-4-carboxylic acid | 1.7 g, 74% | CC1=C(C=NN1)C(=O)O | C5H6N2O2
